US07112599B2
2-[2-(3-Phenoxy-phenyl)-acetylamino]-pentanoic Acid (5-benzoyl-oxazol-2-yl)-amide
A mixture of 2-[2-(3-phenoxy-phenyl)-acetylamino]-pentanoic acid (65 mg, 0.2 mmol), (2-Amino-oxazol-5-yl)-phenyl-methanone (38 mg, 0.2 mmol.), HBOT (32 mg, 0.24 mmol), EDC. HCl (58 mg, 0.3 mmol) and a trimethylamine (0.11 ml, 0.8 mmol) in methylene chloride was stirred at room temperature until disappearance of starting material. The mixture was quenched with water and extracted with methylene chloride. The organic layer was washed with dilute HCl, brine, dried over sodium sulfate and the solvent was removed at reduced pressure to provide the title compound, LC-MS M+1=498.5.

reactant | 2-[2-(3-phenoxy-phenyl)-acetylamino]-pentanoic acid | 0.2 mmol, 65 mg | O(C1=CC=CC=C1)C=1C=C(C=CC1)CC(=O)NC(C(=O)O)CCC | C19H21NO4
reactant | (2-Amino-oxazol-5-yl)-phenyl-methanone | 0.2 mmol, 38 mg | NC=1OC(=CN1)C(=O)C1=CC=CC=C1 | C10H8N2O2
reactant | HCl | 0.3 mmol, 58 mg | Cl | ClH
reactant | trimethylamine | 0.8 mmol, 0.11 ml | CN(C)C | C3H9N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | EDC
product | 2-[2-(3-Phenoxy-phenyl)-acetylamino]-pentanoic Acid (5-benzoyl-oxazol-2-yl)-amide | C(C1=CC=CC=C1)(=O)C1=CN=C(O1)NC(C(CCC)NC(CC1=CC(=CC=C1)OC1=CC=CC=C1)=O)=O | C29H27N3O5
